US08541595B2
Step 1, Example VII-1: 2-[4-(5-benzyl-5H-imidazo[2,1-a]isoindol-5-yl)phenyl]propan-2-ol
A suspension of 5-benzyl-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole (100 mg) in THF (3 mL) was cooled to −78° C. and n-BuLi solution (0.234 mL, 1.6 M in hexane) was added slowly. After stirring for 10 minutes acetone (29 mg) was added to the resulting red solution. After 30 min of the addition of acetone, reaction was quenched with aqueous saturated NH4Cl. The reaction mixture was partitioned between saturated aqueous NH4Cl and EtOAc.

reactant | 5-benzyl-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole | 100 mg | C(C1=CC=CC=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)C2=CC=C(C=C2)Br | C23H17BrN2
reactant | n-BuLi | 1.6 M, 0.234 mL | [Li]CCCC
reactant | acetone | 29 mg | CC(=O)C | C3H6O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[4-(5-benzyl-5H-imidazo[2,1-a]isoindol-5-yl)phenyl]propan-2-ol | C(C1=CC=CC=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)C2=CC=C(C=C2)C(C)(C)O | C26H24N2O
